US06335332B1
5-octyl-5-(ethoxycarbonylmethyl)barbituric acid
4.05 g of 5-octylbarbituric acid (preparation 7) are dissolved in 25 ml of dimethylformamide, 1.16 g of sodium carbonate are added. Ethyl bromoacetate (2.25 ml) is added dropwise to the reaction mixture in 5 minutes, then the mixture is kept at room temperature under stirring for about 3 hours. The reaction mixture is then partitioned between 400 ml of water, 17 ml of 1 N hydrochloric acid and 150 ml of ethyl acetate. The organic phase is separated and washed with 150 ml of water and 100 ml of brine, then it is dried over sodium sulfate. The aqueous phases are extracted with 100 ml of ethyl acetate and the organic extracts are pooled, dried over sodium sulfate and evaporated to dryness, to give 6.5 g an oily residue. This residue is purified by silica gel chromatography (eluant methylene chloride/ethyl acetate 9 1) to give 3.87 g of the product.

reactant | 5-octylbarbituric acid | 4.05 g | C(CCCCCCC)C1C(NC(NC1=O)=O)=O | C12H20N2O3
reactant | sodium carbonate | 1.16 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Ethyl bromoacetate | 2.25 ml | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-octyl-5-(ethoxycarbonylmethyl)barbituric acid | 6.5 g | C(CCCCCCC)C1(C(NC(NC1=O)=O)=O)CC(=O)OCC | C16H26N2O5
